US06479536B1
1′-Benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine]
To a solution of (1-benzyl-4-piperidyl)(4-isopropylphenyl) (3,4,6-trimethyl-2-methoxyphenyl)methanol (5.61 g, 11.89 mmol) in acetic acid (40 ml) was added a 47% hydrobromic acid (50 ml) and the resulting mixture was refluxed with heating for 13 hours. The reaction mixture was cooled down to room temperature and then an 8 N aqueous solution of sodium hydroxide was added into the mixture until it became basic. The product was extracted with ethyl acetate. T he extracts were washed with an aqueous saturated solution of sodium chloride, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from hexane to obtain 4.44 g (76% yield) of the title compound. Melting point: 125-128° C.

reactant | (1-benzyl-4-piperidyl)(4-isopropylphenyl) (3,4,6-trimethyl-2-methoxyphenyl)methanol | 11.89 mmol, 5.61 g | C(C1=CC=CC=C1)N1CCC(CC1)C(O)(C1=C(C(=C(C=C1C)C)C)OC)C1=CC=C(C=C1)C(C)C | C32H41NO2
reactant | hydrobromic acid | 50 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1′-Benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] | 4.44 g, 76% yield | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2C2=CC=C(C=C2)C(C)C)C(=CC(=C1C)C)C | C31H37NO
